US07176227B2
Synthesis of isoquinoline-1-aldehyde
Isoquinolin-1-yl-methanol (123.7 mg) was dissolved in chloroform (6.2 ml) and then added with manganese dioxide (chemically processed product) (1.24 g), followed by stirring at room temperature for 30 minutes. The reaction solution was filtrated through Celite and the solvent was then distilled off. The residue was dried under vacuum, thereby obtaining the subject compound (103.9 mg) as a brown solid.

reactant | Isoquinolin-1-yl-methanol | 123.7 mg | C1(=NC=CC2=CC=CC=C12)CO | C10H9NO
solvent | chloroform | 6.2 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | isoquinoline-1-aldehyde | 103.9 mg | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
